US06603034B2
At room temperature, a three-neck flask equipped with a reflux condenser, internal thermometer, dropping funnel and stirrer under nitrogen protective gas was initially charged with 7.1 g of zinc powder (108 mmol) in 42 ml of ethyl acetate. After 1.7 ml of trimethylchlorosilane (13.4 mmol) had been added, the mixture was heated to 60° C. for 15 min, then allowed to cool to 55° C. and 15.3 g of undiluted methyl bromoacetate (100 mmol) were subsequently added dropwise within 7 min, and the temperature was maintained at 65° C. by external cooling. The mixture was then stirred at 50° C. for 15 min. After cooling to 0° C., 10.7 g of undiluted octanal (83 mmol) were added, and the temperature was maintained at 5° C. by external cooling. After stirring had been continued at 50C for 30 min, 25° C. for 2 h and 40° C. for 20 min, the mixture was cooled to 0° C., acidified with 30 ml of 10% hydrochloric acid to a pH of 1 and the mixture was stirred for 10 min. Excess zinc was then filtered off and the organic phase removed. The organic phase was then stirred with 10 ml of concentrated ammonia solution at 0° C. for 10 min. After the phase separation, drying was effected over sodium sulfate and the solvent was distilled off under reduced pressure. Methyl 3-hydroxydecanoate was obtained in a yield of 14.2 g (84% of theory) and had a boiling point of 59° C. (0.04 mbar).

reactant | trimethylchlorosilane | 13.4 mmol, 1.7 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | methyl bromoacetate | 100 mmol, 15.3 g | BrCC(=O)OC | C3H5BrO2
reactant | octanal | 83 mmol, 10.7 g | C(CCCCCCC)=O | C8H16O
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | ethyl acetate | 42 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 108 mmol, 7.1 g | [Zn] | Zn
product | Methyl 3-hydroxydecanoate | OC(CC(=O)OC)CCCCCCC | C11H22O3
